US05109013
1-Cyclohexyl-3-methylaminopyrrolidine
A mixture of 40% aqueous methylamine (93 g), ethanol (200 ml) and 3-bromo-1-cyclohexylpyrrolidine (92.8 g, 0.4 mol) was heated to 150° C. in a steel bomb for 20 hr. After cooling, the mixture was concentrated and the residue partitioned between dilute sodium hydroxide and chloroform. The chloroform solution was dried (sodium sulfate), concentrated, and the residue distilled to obtain 40 g (55%), bp 172°-176° C./40 mm. A portion of the distillate was converted to the fumarate salt which was recrystallized from ethanol-water. This was converted back to the free base and distilled, bp 75°-80° C./0.1 mm.

reactant | methylamine | 93 g | CN | CH5N
reactant | 3-bromo-1-cyclohexylpyrrolidine | 0.4 mol, 92.8 g | BrC1CN(CC1)C1CCCCC1 | C10H18BrN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-Cyclohexyl-3-methylaminopyrrolidine | C1(CCCCC1)N1CC(CC1)NC | C11H22N2
